US04007179
Sodium 2-(2-ethylindan-5-yl)propionate
To 12.2g. of 2-(2-ethylindan-5-yl)propionic acid was added a solution of 2.2g. of sodium hydroxide in 9 ml. of water and 21 ml. of ethanol. After complete dissolution, the solvent was distilled off under reduced pressure and to the residue was added ether. The precipitates thus separated were recovered by filtration and washed with either to give 12.9g. of a white powder. The powder was recrystallized from a mixture of ethanol and ether to give the desired product as white needles of m.p. 178° - 181° C.

reactant | 2-(2-ethylindan-5-yl)propionic acid | C(C)C1CC2=CC=C(C=C2C1)C(C(=O)O)C | C14H18O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | Sodium 2-(2-ethylindan-5-yl)propionate | C(C)C1CC2=CC=C(C=C2C1)C(C(=O)[O-])C.[Na+] | InChI=1S/C14H18O2.Na/c1-3-10-6-12-5-4-11(8-13(12)7-10)9(2)14(15)16;/h4-5,8-10H,3,6-7H2,1-2H3,(H,15,16);/q;+1/p-1
